US05502206
In the first step, a chiral tartaric anhydride is prepared by reaction of three equivalents of an acid chloride with tartaric acid according to the description in JACS 1933, 55, 2605, and is subsequently reacted with alkenamines at temperatures between 120° C. and 160° C. in suitable inert solvents, such as toluene.

reactant | tartaric acid | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | tartaric anhydride | C1(C(O)C(O)C(=O)O1)=O | C4H4O5
